US07648979B2
a) 4-[2-(4-Dimethylcarbamoyl-piperazine-1-carbonyl)-1-isopropyl-1H-indole-5-carbonyl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester
The title compound was synthesized in analogy to example 47a), from 5-(4-tert-butoxycarbonyl-[1,4]diazepane-1-carbonyl)-1-isopropyl-1H-indole-2-carboxylic acid and piperazine carboxylic acid dimethylamide. Off-white solid. MS (m/z): 569.4 (M+H)+.

reactant | 5-(4-tert-butoxycarbonyl-[1,4]diazepane-1-carbonyl)-1-isopropyl-1H-indole-2-carboxylic acid | C(C)(C)(C)OC(=O)N1CCN(CCC1)C(=O)C=1C=C2C=C(N(C2=CC1)C(C)C)C(=O)O | C23H31N3O5
reactant | piperazine carboxylic acid dimethylamide | CN(C(=O)N1CCNCC1)C | C7H15N3O
product | 4-[2-(4-Dimethylcarbamoyl-piperazine-1-carbonyl)-1-isopropyl-1H-indole-5-carbonyl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CCC1)C(=O)C=1C=C2C=C(N(C2=CC1)C(C)C)C(=O)N1CCN(CC1)C(N(C)C)=O | C30H44N6O5
